US09126969B2
0.6 mL of trifluoroacetic acid is added to a solution of 260 mg of piperidine-1-carboxylic acid [3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide in solution in 1.5 mL of dichloromethane. The reaction medium is stirred at 22° C. for 48 hours. The reaction medium is concentrated under vacuum in a rotary evaporator. After evaporation, the reaction crude is purified by flash chromatography in an Intelliflash apparatus on an Analogix RS-12 cartridge. The elution is carried out in pure dichloromethane for 20 min and then in dichloromethane containing 10% of ammoniacal methanol. 120 mg of N-{3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide are obtained in the form of a beige solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm): from 1.45 to 1.70 (m, 6H); 2.90 (s, 3H); 3.07 (m, 2H); 3.29 (m, 2H); 3.45 (m, 4H); 3.55 (m, 4H); 7.31 (d, J=8.0 Hz, 1H); 7.57 (d, J=11.5 Hz, 1H); 8.02 (s, 1H). EI mass spectrum: m/z=426, M+., m/z=341 (M−C5H11N)+; m/z=114 CF3CO2H+. relative to TFA; m/z=84 C5H10N+; m/z=69 CF3+ relative to TFA; m/z=45 CO2H+ relative to TFA base peak, m/z=43 C2H5N+.; m/z=41 C3H5+

reactant | trifluoroacetic acid | 0.6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | piperidine-1-carboxylic acid [3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]amide | 260 mg | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C=C1N1CCN(CC1)C | C26H35FN8O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-{3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide | 120 mg | FC1=CC2=C(NC(=N2)C2=NNC=C2NC(=O)N2CCCCC2)C=C1N1CCN(CC1)C | C21H27FN8O
